US07410985B2
Preparation of 3-Benzyloxy-1,6-dimethyl-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid cyclohexylamide
To a solution of 3-benzyloxy-6-methyl-4-oxo-4H-pyran-2-carboxylic acid cyclohexylamide (1.40 g, 4.1 mmol) in 5 ml of methanol, methylamine solution (9 ml of 2M solution in methanol, 16 mmol) was added. The resulting solution was stirred at 70 to 75° C. for overnight under the pressure in a sealed tube. The solvent was removed under reduced pressure gave light yellow solid as a crude product. The material was purified by column chromatography (elution gradient: 100% ethyl acetate to 25% methanol in ethyl acetate) to give the titled compound as white solid (1.20 g, 83.0%).

reactant | 3-benzyloxy-6-methyl-4-oxo-4H-pyran-2-carboxylic acid cyclohexylamide | 4.1 mmol, 1.40 g | C1(CCCCC1)NC(=O)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C20H23NO4
reactant | methylamine | 16 mmol, 2M, 9 ml | CN | CH5N
solvent | methanol | 5 ml | CO | CH4O
product | 3-Benzyloxy-1,6-dimethyl-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid cyclohexylamide | 1.20 g, 83.0% | C1(CCCCC1)NC(=O)C=1N(C(=CC(C1OCC1=CC=CC=C1)=O)C)C | C21H26N2O3
